US07687491B2
(27a) (4-Bromo-2-methylphenyl)methanol
The crude product of the title compound was synthesized by conducting the similar reaction to that mentioned in Example 24 (24e) using 4-bromo-2-methylbenzoic acid (4.0 g, 19 mmol) and a 1.0 M solution of borane-tetrahydrofuran complex in tetrahydrofuran (20 ml, 20 mmol). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:19 to 3:2) as the eluent to afford the title compound (3.7 g) in a yield of 99% as a colourless oily product.

reactant | 4-bromo-2-methylbenzoic acid | 19 mmol, 4.0 g | BrC1=CC(=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | tetrahydrofuran | 20 mmol, 20 ml | O1CCCC1 | C4H8O
product | (4-Bromo-2-methylphenyl)methanol | BrC1=CC(=C(C=C1)CO)C | C8H9BrO
